US07125901B2
Di-tert-butyl {[(2-{4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}ethyl)amino]methylidene}biscarbamate (268 mg, 79.2%) (170 mg) was dissolved in 4 N hydrogen chloride in 1,4-dioxane (5 mL). The mixture was stirred at room temperature for 2 days, and then evaporated in vacuo. The residue was washed with ethyl ether, dried in vacuo to give N-{4-[4-(2-{[amino(imino)methyl]amino}ethyl)phenyl]-1,3-thiazol-2-yl}acetamide hydrochloride (50 mg, 43.6%).

reactant | Di-tert-butyl {[(2-{4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}ethyl)amino]methylidene}biscarbamate | 268 mg | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C24H35N5O5S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-{4-[4-(2-{[amino(imino)methyl]amino}ethyl)phenyl]-1,3-thiazol-2-yl}acetamide hydrochloride | 50 mg, 43.6% | Cl.NC(=N)NCCC1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | InChI=1S/C14H17N5OS.ClH/c1-9(20)18-14-19-12(8-21-14)11-4-2-10(3-5-11)6-7-17-13(15)16;/h2-5,8H,6-7H2,1H3,(H4,15,16,17)(H,18,19,20);1H
